US07419984B2
6-(2-Allyloxy-5-chloro-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 165, 2-[2-amino-6-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-chloro-phenol and 3-bromo-propene provided the title compound (80% yield) 1H NMR (DMSO-d6) δ 4.68 (d, 2H, CH2), 5.25-5.28 (m, 1H, Ar), 5.36-5.41 (m, 1H, Ar), 6.03-6.08 (m, 1H, Ar), 6.36 (s, 2H, NH2), 6.70 (s, 1H, Ar), 7.14 (d, 1H, J=8.9 Hz, Ar), 7.31 (d, 2H, J=8.9 Hz, Ar), 7.40 (dd, 1H, J—2.8 Hz, J=8.8 Hz, Ar), 7.78 (d, 2H, J=8.9 Hz, Ar), 7.85 (d, 1H, J=2.8 Hz, Ar), 9.32 (s, 1H, NH).

reactant | 2-[2-amino-6-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-chloro-phenol | NC1=NC(=CC(=N1)C1=C(C=CC(=C1)Cl)O)NC1=CC=C(C=C1)Cl | C16H12Cl2N4O
reactant | 3-bromo-propene | BrCC=C | C3H5Br
product | 6-(2-Allyloxy-5-chloro-phenyl)-N*4*-(4-chloro-phenyl)-pyrimidine-2,4-diamine | 80% yield | C(C=C)OC1=C(C=C(C=C1)Cl)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)Cl | C19H16Cl2N4O
